### PR TITLE
[Merged by Bors] - chore: remove `.val` where elaboration works

### PR DESCRIPTION
**Pull request by mo271**
In all but two places where #6607 is mentioned the elaboration now works correctly. 
Not sure why it does not for `det_units_conj` and `det_units_conj'`, hence keeping the TODO, but changing to `.val` there because it is a little less verbose. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Determinant/Basic.lean [hunk 1]
```diff
@@ -183,14 +183,14 @@ theorem det_mul_left_comm (M N P : Matrix m m R) : det (M * (N * P)) = det (N *
 theorem det_mul_right_comm (M N P : Matrix m m R) : det (M * N * P) = det (M * P * N) := by
   rw [Matrix.mul_assoc, Matrix.mul_assoc, det_mul, det_mul_comm N P, ← det_mul]
 
--- TODO(mathlib4#6607): fix elaboration so that the ascription isn't needed
+-- TODO(mathlib4#6607): fix elaboration so `val` isn't needed
 theorem det_units_conj (M : (Matrix m m R)ˣ) (N : Matrix m m R) :
-    det ((M : Matrix _ _ _) * N * (↑M⁻¹ : Matrix _ _ _)) = det N := by
+    det (M.val * N * M⁻¹.val) = det N := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Determinant/Basic.lean:188]: Does
```suggestion
    det (M * N * M⁻¹ : Matrix m m _) = det N := by
```
work here? Up do you if you think that's better.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/LinearAlgebra/Matrix/Determinant/Basic.lean (hunk 1 above)
Comment (mo271) [reply Mathlib/LinearAlgebra/Matrix/Determinant/Basic.lean:188]: No, it does not work:
```
failed to synthesize
  HMul (Matrix m m R)ˣ (Matrix m m R) ?m.90214
 ```
 for the first multiplication `M * N`
